*Digital Display Probe
*
.subckt probe_dig2 1 out2 
Rout 2 0 {670/vpwr$_digital}
g1 0 2 1 0 1m
i1 0 2 {(T+0.05)*vpwr$_digital*1.492537m}  
.param T=0
.ends
*