* from: http://www.audiofil.net/forum/forum_posts.asp?TID=8495&get=last

*      Model Generated by PEDJA*
*Copyright(c) Pedja Design Systems*
*         All Rights Non Reserved        *
*    PUBLISHED LICENSED SOFTWARE   *
*   Contains Non Proprietary Information *
*      Which is Not The Property of      *
*                   ANYONE      *
*Commercial Use or Resale Non Restricted *
*   by DIY License Agreement    *
* Model generated on Nov  06, 2007
* MODEL FORMAT: PSPICE
* Rev Date, 06 Nov 2007
.SUBCKT LM1875 3 2 6 4 5
* EXTERNAL NODE DESIGNATIONS
* 3 --> (+) INPUT
* 2 --> (-) INPUT
* 6 --> OUTPUT
* 4 --> + SUPPLY (VCC)
* 5 --> - SUPPLY (VEE)
EOX 120 10 31 32 2.0
RCX 120 121 1K
RDX 121 10 1K
RBX 120 122 1K
GOS 10 57 122 121 1.0
RVOS 31 32 1K
RINB 2 18 1000
RINA 3 19 1000
DIN1 5 18 DMOD2
DIN2 18 4 DMOD2
DIN3 5 19 DMOD2
DIN4 19 4 DMOD2
EXX 10 5 17 5 1.0
EEE 10 50 17 5 1.0
ECC 40 10 4 17 1.0
RAA 4 17 100MEG
RBB 17 5 100MEG
ISET 10 24 1e-3
DA1 24 23 DMOD1
RBAL 23 22 1000
ESUPP 22 21 4 5 1.0
VOFF 21 10 -1.25
DA2 24 25 DMOD1
VSENS1 25 26 DC 0
RSET 26 10 1K
CSET 26 10 1e-10
FSET 10 31 VSENS1 1.0
R001 34 10 1K
FTEMP 10 27 VSENS1 1.0
DTA 27 10 DMOD2
DTB 28 29 DMOD2
VTEMP 29 10 DC 0
ECMR 38 10 11 10 1.0
VCMX 38 39 DC 0
RCM2 41 10 1MEG
EPSR 42 10 4 10 1.0
CDC1 43 42 10U
VPSX 43 44 DC 0
RPSR2 45 10 1MEG
FCXX 57 10 VCXX 100
DCX1 98 97 DMOD1
DCX2 95 94 DMOD1
RCX1 99 98 100
RCX2 94 99 100
VCXX 99 96 DC 0
ECMX 96 10 11 10 1.0
DLIM1 52 57 DMOD1
DLIM2 57 51 DMOD1
ELIMP 51 10 26 10 99.3
GDM 10 57 3 2 1
C1 58 59 1e-10
DCLMP2 59 40 DMOD1
DCLMP1 50 59 DMOD1
RO2 59 10 1K
GO3 10 71 59 10 1
RO3 71 10 1
DDN1 73 74 DMOD1
DDN2 73 710 DMOD1
DDP1 75 72 DMOD1
DDP2 71 720 DMOD1
RDN2 710 71 100
RDP 720 72 100
VOOP 40 76 DC 0
VOON 77 50 DC 0
QNO 76 73 78 NPN1
QNP 77 72 79 PNP1
RNO 78 81 1
RPO 79 81 1
VOX 86 6 DC 0
RNT 76 81 100MEG
RPT 81 77 1MEG
FX 10 93 VOX 1.0
DFX1 93 91 DMOD1
VFX1 91 10 DC 0
DFX2 92 93 DMOD1
VFX2 10 92 DC 0
FPX 4 10 VFX1 1.0
FNX 10 5 VFX2 1.0
RAX 122 10 MRAX 1.002000e+03
.MODEL MRAX RES TC1=5e-05
FIN1 18 5 VTEMP 0.875
FIN2 19 5 VTEMP 1.125
CIN1 2 10 1e-12
CIN2 3 10 1e-12
RD1 18 11 500000
RD2 19 11 500000
RCM 11 10 9.75e+06
FCMR 10 57 VCMX 31.6228
FPSR 10 57 VPSX 63.2456
RSLOPE 4 5 1000
GPWR 4 5 26 10 0.02
ETEMP 27 28 32 33 0.219999
RIB 32 33 MRIB 1K
.MODEL MRIB RES TC1=0.00293599
RISC 33 34 MRISC 1K
.MODEL MRISC RES TC1=-0.003
RCM1 39 41 316.228
CCM 41 10 1.59155e-10
RPSR1 44 45 10000
CPSR 45 10 5.30516e-10
ELIMN 10 52 26 10 99.3
RDM 57 10 420.038
C2 57 10 3.4446e-11
ECMP 40 97 26 10 0.5
ECMN 95 50 26 10 0.5
G2 58 10 57 10 9.5e-06
R2 58 10 250.604
GO2 59 10 58 10 32
EPOS 40 74 26 10 0
ENEG 75 50 26 10 0.1
GSOURCE 74 73 33 34 0.04
GSINK 72 75 33 34 0.04
ROO 81 86 0.5
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
.MODEL DMOD2 D  (IS=1e-17)
*-- DMOD2 DEFAULT PARAMETERS
*RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
.MODEL NPN1 NPN (BF=100 IS=1e-15)
*-- NPN1 DEFAULT PARAMETERS
*NF=1 VAF=inf IKF=inf ISE=0 NE=1.5
*BR=1 NR=1 VAR=inf IKR=inf ISC=0
*NC=2 RB=0 IRB=inf RBM=0 RE=0 RC=0
*CJE=0 VJE=0.75 MJE=0.33 TF=0 XTF=0
*VTF=inf ITF=0 PTF=0 CJC=0 VJC=0.75
*MJC=0.33 XCJC=1 TR=0 CJS=0 VJS=0.75
*MJS=0 XTB=0 EG=1.11 XTI=3 KF=0 AF=1
*FC=0.5 TNOM=27
.MODEL PNP1 PNP (BF=100 IS=1e-15)
*-- PNP1 DEFAULT PARAMETERS
*NF=1 VAF=inf IKF=inf ISE=0 NE=1.5
*BR=1 NR=1 VAR=inf IKR=inf ISC=0
*NC=2 RB=0 IRB=inf RBM=0 RE=0 RC=0
*CJE=0 VJE=0.75 MJE=0.33 TF=0 XTF=0
*VTF=inf ITF=0 PTF=0 CJC=0 VJC=0.75
*MJC=0.33 XCJC=1 TR=0 CJS=0 VJS=0.75
*MJS=0 XTB=0 EG=1.11 XTI=3 KF=0 AF=1
*FC=0.5 TNOM=27
.ENDS lm1875
